US05817669
A solution of malonic acid monoethyl ester (12.3 g) dissolved in tetrahydrofuran (80 ml) was cooled with ice, and then, to the resulting solution, a solution of methylmagnesium bromide (3M) in ether (64 ml) was added dropwise. After the resultant mixture was stirred for 20 minutes, a solution of 2-methylthio-4-chloropyrimidine-5-carbonylchloride (8.6 g) dissolved in tetrahydrofuran (100 ml) was added dropwise to the mixture, which was then stirred for two hours at a room temperature. This reaction mixture was poured into ice water, and then, concentrated hydrochloric acid was added to the resulting solution so that pH might be adjusted to be 5-6, and the solution was subsequently extracted with ethyl acetate. The obtained extract was dried over anhydrous sodium sulfate, and solvent was distilled off under reduced pressure. Then, purification was conducted by silica gel column chromatography (eluent: chloroform), and thus, 3-(2-methylthio-4-chloropyrimidin-5-yl)-3-oxopropionic acid ethyl ester (8.0 g) was obtained.

reactant | malonic acid monoethyl ester | 12.3 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | 2-methylthio-4-chloropyrimidine-5-carbonylchloride | 8.6 g | CSC1=NC=C(C(=N1)Cl)C(=O)Cl | C6H4Cl2N2OS
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ether | 64 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(2-methylthio-4-chloropyrimidin-5-yl)-3-oxopropionic acid ethyl ester | 8.0 g | C(C)OC(CC(=O)C=1C(=NC(=NC1)SC)Cl)=O | C10H11ClN2O3S
